US07399759B2
tert-Butyl [2-oxo-3-(4-pyridyl)-1-imidazolidinyl]acetate
Sodium hydride (60% in oil, 0.40 g, 10.1 mmol) was added to a mixture of 1-(4-pyridyl)-2-imidazolidinone (1.5 g, 9.2 mmol) and DMF (20 ml) at 0° C., and the mixture was stirred at room temperature for 30 minutes. Successively, tert-butyl bromoacetate (2.2 g, 11.2 mmol) was added to the mixture, and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was combined with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate-methanol (5:1, v/v) were collected, concentrated and recrystallized from tetrahydrofuran-hexane to give the titled compound (1.7 g, 68%) as white crystals.

reactant | Sodium hydride | 10.1 mmol, 0.40 g | [H-].[Na+]
reactant | 1-(4-pyridyl)-2-imidazolidinone | 9.2 mmol, 1.5 g | N1=CC=C(C=C1)N1C(NCC1)=O | C8H9N3O
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | tert-butyl bromoacetate | 11.2 mmol, 2.2 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | water | O | H2O
product | tert-Butyl [2-oxo-3-(4-pyridyl)-1-imidazolidinyl]acetate | 1.7 g, 68% | O=C1N(CCN1C1=CC=NC=C1)CC(=O)OC(C)(C)C | C14H19N3O3
